US07544695B2
N-(2-Amino-5-thien-2-ylphenyl)-2-(4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]dec-8-yl)-1,3-thiazole-5-carboxamide
2-(4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]dec-8-yl)-1,3-thiazole-5-carboxylic acid (60 mg, 0.16 mmol) was made 0.25 M in anhydrous DCM and to this stirring solution was added catalytic DMF followed by 3 equivalents thionyl chloride (179 mg, 1.5 mmol). The resulting solution was stirred at ambient temperature under nitrogen for 1 hour. The reaction mixture was then concentrated in vacuo and azeotroped once with toluene to remove excess thionyl chloride. The residue was made 0.5M in anhydrous DCM and to this stirring solution was added 3 equivalents triethylamine (48 mg, 0.48 mmol) followed by 1 equivalent tert-butyl 2-amino-4-thien-2-ylphenylcarbamate (30 mg, 0.16 mmol). The resulting mixture was stirred at ambient temperature for 14 hours. The reaction mixture was then diluted with 4M TFA in DCM and allowed to stir at ambient temperature. After one hour the reaction mixture was concentrated in vacuo and purified by reverse phase chromatography: MS (ESI+): cal'd [M+H]+ 531.1, obs'd 531.1.

reactant | 2-(4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]dec-8-yl)-1,3-thiazole-5-carboxylic acid | 0.16 mmol, 60 mg | O=C1NCN(C12CCN(CC2)C=2SC(=CN2)C(=O)O)C2=CC=CC=C2 | C17H18N4O3S
reactant | thionyl chloride | 1.5 mmol, 179 mg, 3 equivalents | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 0.48 mmol, 48 mg, 3 equivalents | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 2-amino-4-thien-2-ylphenylcarbamate | 0.16 mmol, 30 mg, 1 equivalent | NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O | C15H18N2O2S
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | TFA | 4M | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(2-Amino-5-thien-2-ylphenyl)-2-(4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]dec-8-yl)-1,3-thiazole-5-carboxamide | NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CN=C(S1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C27H26N6O2S2
